US05559081
(b) 1,1,1-Trifluoro-2'-(4,6-dimethoxypyrimidin-2-ylmethyl) methanesulfonanilide
Trifluoromethanesulfonic anhydride (1.12 g) was added dropwise to a stirred solution of 2-(4,6-dimethoxypyrimidin-2-ylmethyl)aniline (0.98 g) plus pyridine (0.31 g) in dry dichloromethane (15 ml) at -70° C. under nitrogen. The resulting orange solution was stirred at -75° C. for 2 hours and then allowed to warm to room temperature and stirred for a further hour. The mixture was washed with water, dried and evaporated to give a red oil. Purification by chromatography and recrystallisation from 60/80 petroleum ether gave 0.4 g of the product as a white solid, mp 99°-100° C.

reactant | Trifluoromethanesulfonic anhydride | 1.12 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | 2-(4,6-dimethoxypyrimidin-2-ylmethyl)aniline | 0.98 g | COC1=NC(=NC(=C1)OC)CC1=C(N)C=CC=C1 | C13H15N3O2
reactant | pyridine | 0.31 g | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 1,1,1-Trifluoro-2'-(4,6-dimethoxypyrimidin-2-ylmethyl) methanesulfonanilide | 0.4 g | FC(S(=O)(=O)NC1=C(C=CC=C1)CC1=NC(=CC(=N1)OC)OC)(F)F | C14H14F3N3O4S
